Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Adhesive Tape
 
Attending: ___.
 
Chief Complaint:
Seizures 
 
Major Surgical or Invasive Procedure:
Video EEG Monitoring

 
History of Present Illness:
The pt is a ___ year-old right-handed woman who presents for
further evaluation of her seizures.  The patient reports that 
she
first started having seizures ___ years ago.  At that time she
reportedly had a grand mal seizure in her sleep.  Her husband 
was
in bed with her, and woke up because the bed started shaking. 
She notes loss of consciousness during this time, and when she
did finally wake up she had bite marks on her tongue.  Since 
that
time she has had intermittant episodes where she will start
feeling an aura, which she describes as a sensation ___. 
She states this will last for ~10 seconds, after which she will
begin sweating, will start breathing 'funny' and is unable to
concentrate.  This will usually last somewhere from ___ mins.
She will usually lie down during these episodes, and notes that
afterwards she will be very confused and disoriented, and will
sometimes sleep all day.  These episodes occur with varying
frequency, and seem to be more common during times of stress,
near her menstrual period and after smoking marijuana.  She does
note that from ___ she had no episodes, but they began
again in ___, and began to happen with increasing frequency, 
to
the point that in ___ she had episodes on ___ and ___.  On ___ she reports having 'a big one.'  This
episode began with her usual aura ___, and she went to 
the
bedroom to lie down.  Her husband notes that shortly afterward
she was staring off to the side, with a glazed expression on her
face.  As she came out of this episode, the patient was 
initially
mumbling non-sensical words, but eventually was able to
articulate.  She remained somewhat confused however, noting, for
example, that she was unable to remember the birthdays of her 3
children.  Since that episode happened she notes that she
continues to have some word finding difficulties, and will also
occasionally find she is unable to remember how to do tasks she
could previously perform (for example, finds herself staring at
the remote control, and can't remember how to use it).

The patient reports that she was the product of a normal
pregnancy, but was a breech birth.  Reports normal childhood
development.  She was in a car accident where she hit her head 
on
the windshield of a car in her early ___, but did not lose
consciousness, and did not seek medical attention at that time.

She reports that in the past she has had some difficulty with
maintaining appropriate Dilantin levels.  In addition to her
current medication regimen, she has also tried Tegretol, but 
this
caused significant nausea.  Her Lamictal dose was recently
increased on ___.

 
Past Medical History:
- MI in ___ with bare metal stent placement
- Hypothyroidism
- PTSD and panic disorder
- Depression
- Anxiety
- Dyslipidemia
- R breast lump removal
- Tubal ligation
- Tonsillectomy

 
Social History:
___
Family History:
The patient's sister has similar episodes, but does not take
medication for them.  The patient's mother died in her ___ of 
PNA secondary to
dementia.  She is unsure of the identity of her biological 
father.

 
Physical Exam:
PER THE ADMITTING RESIDENT (___)
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. 
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect. 
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 
 
-Sensory: Decreased pinprick on L hand to mid-forearm.  
Otherwise
no deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. 
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  3  2    3    2   2 
R  3  2    3    2   2 
Plantar response was flexor bilaterally. 
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unstable when walking in tandem. Romberg positive.

 
Pertinent Results:
___:
WBC 5.9, HGB 13.6, HCT 40.4, PLT 308
Na 141, K 4.2, Cl 111, HCO3 23, GLU 90
Ca 8.7, Mg 2.1, Phos 3.1
TSH 0.56
Serum ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___:
phenytoin: 16.4
lamotrigene: 0.6
topiramate: 2.1
EEG (___):
IMPRESSION: This telemetry captured no pushbutton activations. 
Routine
sampling showed an 8 Hz posterior dominant rhythm with no areas 
of
prominent focal slowing and no epileptiform features.
EEG (___):
IMPRESSION: This telemetry captured four pushbutton activations. 
None
of these contained any epileptiform features. The first 
pushbutton
activation was associated with symptoms of blurry vision and the 
other
three pushbutton activations occurred when awoken from sleep. 
Routine
sampling showed an 8 Hz well organized posterior dominant 
rhythm. There
were no areas of prominent focal slowing and there were no 
epileptiform
features on this recording.
EEG (___):
IMPRESSION: This telemetry captured one pushbutton activation 
which had
no epileptiform activity. Routine sampling shows a 9 Hz 
posterior
dominant rhythm during wakefulness with no areas of prominent 
focal
slowing and no epileptiform features.
EEG (___):
IMPRESSION: This telemetry captured two pushbutton activations 
with no
associated epileptiform activity. Routine sampling shows a 9 Hz
posterior dominant rhythm with no areas of focal slowing and no
epileptiform features.
EEG (___):
IMPRESSION: This telemetry captured seven pushbutton activations 
with
no epileptiform activity. Routine sampling showed a 9 Hz 
posterior
dominant rhythm with no areas of prominent focal slowing or 
epileptiform
activity.
EEG (___):
IMPRESSION: There were numerous pushbutton events and seizure
detections but they appeared to be without a clear change on 
EEG. The
baseline and routine and automated recording appears to be 
within normal
limits.
EEG (___):
IMPRESSION: This telemetry captured one pushbutton activation 
which had
no apparent clinical correlation and no epileptiform features on 
EEG.
Routine sampling showed an 8.5 Hz posterior dominant rhythm with 
no
areas of prominent focal slowing and no epileptiform features.
INTER-ICTAL SPECT (___):
IMPRESSION: Decreased activity in the medial portion of the 
right temporal lobe
suggestive of an epileptic focus.
CXR (___):
No evidence of acute cardiopulmonary abnormality.

 
Brief Hospital Course:
Ms. ___ is a ___ year old right-handed woman with a past 
medical history including PTSD, anxiety, and seizures who 
presented ___ for seizure characterization and adjustment of 
her anti-epileptic drug (AED) regimen while on long-term 
monitoring.  She was admitted to the Epilepsy Service, and video 
EEG recording took place over seven days.

Upon admission, clonazepam was held.  The Topamax was decreased 
before complete withdrawal on ___.  Dilantin was subsequently 
tapered (starting ___ before discontinuation on ___.  
Although the patient did awaken from sleep with myoclonic jerks 
on occasion, these events were not typical of her 'seizure' 
events and there was no EEG correlate.   She underwent an 
inter-ictal SPECT scan on ___  which demonstrated decreased 
activity in the medial portion of the right temporal lobe.  
Although the finding was considered suggestive of an epileptic 
focus, telemetry failed to show any focal slowing or 
epileptiform activity throughout the hospitalization.

Due to concerns about side effects and difficulty maintaining 
therapeutic drug levels, one of the goals of the current 
admission was to discontinue Dilantin.  The patient tolerated 
the Dilantin wean well and, as planned, the medication was not 
restarted prior to discharge.  The Topamax was also permanently 
stopped.  Nightly clonazepam was re-started with a plan to 
discontinue the drug when the Lamictal up-titration reached a 
target dose of 150 mg bid.  

In the course of the hospitalization, investigative studies 
showed no evidence of contributory toxic, metabolic, or 
infectious processes.

Although quite anxious, the patient expressed a readiness and 
desire to go home on the day of discharge.  She was otherwise 
asymptomatic.

 
Medications on Admission:
- ASA 325mg
- Dilantin 300mg/300mg
- Topamax 100mg bid
- Lamictal 50mg bid
- Seroquel 25mg tid/ 150mg QHS
- Klonapin 0.5-1mg tid PRN for anxiety
- Citalopram 60 mg QHS
- Levothyroxine 100 mcg Qday
- Lipitor 40 mg Qam
 
Discharge Medications:
1. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO once a 
day. Tablet(s) 
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
4. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).  
5. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Lamotrigine 25 mg Tablet Sig: As Directed Tablet PO As 
Directed: Take 2 tabs po qam and 3 tabs po qpm x 7 days. Then 
increase lamictal by 25 mg q7 days as directed until reaching a 
target dose of 150 mg po twice daily.
.
Disp:*240 Tablet(s)* Refills:*2*
7. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
8. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
9. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
10. Seroquel 50 mg Tablet Sig: Three (3) Tablet PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure Disorder

 
Discharge Condition:
Stable. Neurological examinations in the course of the 
hospitalization were notable for an unsteady tandem gait.
 
Discharge Instructions:
You were admitted to ___ for long-term epilepsy monitoring to 
better characterize your seizures and optimize your 
anti-epileptic drug regimen.  The video EEG monitoring did not 
reveal any epileptiform activity in the course of this 
hospitalization.  However, an inter-ictal spect scan did 
identify the medial temporal lobe as a possible seizure focus.

* Please take lamictal 50 mg po every morning and 75 mg po every 
evening for seven days.
* On ___, please start taking lamictal 75 mg po twice daily 
for seven days.
* On ___, please start taking lamictal 75 mg po every 
morning and 100 mg po every evening for seven days.
* On ___, please start taking lamictal 100 mg po twice daily 
for seven days.
* On ___, please start taking lamictal 100 mg po every 
morning and 125 mg po every evening for seven days.
* On ___, please start taking lamictal 125 mg po twice daily 
for seven days.
* On ___, please start taking lamictal 125 mg po every 
morning and lamictal 150 mg po every evening for seven days.
* On ___, please start taking lamictal 150 mg po twice daily 
and continue the medication at this target dose.
* On ___, it will be important for your lamictal level to be 
drawn and the results faxed to Dr. ___ at 
___.
* On ___, please decrease the clonazepam to 0.5 mg po twice 
daily for three days before completely discontinuing the 
medication.

* Please note that the Topamax and Dilantin have been 
discontinued in the course of this hospitalization.

* Please take all of the medication as directed.

* Please attend all follow-up appointments.

* Please seek medical attention if you develop increasing 
seizure frequency or duration, changing seizure types, 
difficulty speaking, trouble walking, chest discomfort, 
shortness of breath, loss of bowel or bladder function, 
lightheadedness or any other symptom you find concerning.
 
Followup Instructions:
___